US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide (0.260 g, 0.584 mmol) and sodium periodate (0.375 g, 1.752 mmol) in THF (4 ml) and water (2 ml) was added osmium tetroxide (2.5 weight % in t-butanol) (0.147 ml, 0.012 mmol) and the reaction mixture was stirred at rt for 3 hours. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-({4-chloro-3-[(3-cyano-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide (0.245 g, 0.548 mmol, 94% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.95 (s, 1H), 8.12 (s, 1H), 8.07 (s, 1H), 7.92 (s, 1H), 7.45-7.56 (m, 1H), 7.27-7.44 (m, 1H), 6.91 (d, 1H), 4.52 (d, 2H), 2.23 (s, 3H).

reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethenylphenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide | 0.584 mmol, 0.260 g | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=C)C#N)F)C | C21H15Cl2FN4O2
reactant | sodium periodate | 1.752 mmol, 0.375 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | osmium tetroxide | 0.012 mmol, 0.147 ml | [Os](=O)(=O)(=O)=O
product | 4-chloro-N-({4-chloro-3-[(3-cyano-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide | 0.548 mmol, 0.245 g, 94% yield | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=O)C#N)F)C | C20H13Cl2FN4O3
